US06380404B1
Sclareol is oxidised with ozone, followed by treatment with alkaline hydrogen peroxide to give sclareol oxide. The sclareol oxide is then oxidised with an organic hydroperoxide, preferably tert-butyl hydroperoxide, to give 12-acetyl-norlabdane oxide. The 12-acetyl-norlabdane oxide is converted to 12-acetoxy-norlabdane oxide by oxidation with an organic peracid, preferably peracetic acid. The 12-acetoxy-norlabdane oxide is then reduced to norlabdane oxide with sodium borohydride in the presence of a transition metal salt. The reaction scheme of EP 0882191A may be represented as follows:

reactant | Sclareol | C[C@]12CCCC([C@@H]1CC[C@@]([C@@H]2CC[C@](C)(C=C)O)(C)O)(C)C | C20H36O2
reactant | ozone | O=[O+][O-] | O3
reactant | hydrogen peroxide | OO | H2O2
product | sclareol oxide | CC1=CC[C@@H]2[C@]3(CCCC([C@@H]3CC[C@]2(O1)C)(C)C)C | C18H30O
